US04876249
Preparation of 4,4-dimethyl-2-undecyl-2-oxazoline
64 g (320 mmoles) of dodecanoic acid and 61.1 ml (640 mmoles) of 2-amino-2-methylpropanol was placed in a two neck flask equipped with a vigreux column, distillation condenser and a thermometer. The temperature of the reaction mixture was slowly brought to 180° C. and maintained there for 9 hours. After cooling, a 10% alcoholic KOH solution (2 g, 3.6 mmoles) was added and the reflux was continued at 180° C. for 4 hours. The excess 2-amino-2-methylpropanol was distilled at aspirator pressure (86°C./ 18 mm). When the vapor temperature reached 103° C., the distillation was discontinued and the residue was taken in petroleum ether and filtered. The filtrate was washed with dilute KOH, water, dried and concentrated. The oil was distilled at 120° C./ 1.2 mmHg to give 70.5 g (87%) of product.

reactant | dodecanoic acid | 320 mmoles, 64 g | C(CCCCCCCCCCC)(=O)O | C12H24O2
reactant | 2-amino-2-methylpropanol | 640 mmoles, 61.1 ml | NC(CO)(C)C | C4H11NO
reactant | KOH | 3.6 mmoles, 2 g | [OH-].[K+]
product | 4,4-dimethyl-2-undecyl-2-oxazoline | 70.5 g, 87% | CC1(N=C(OC1)CCCCCCCCCCC)C | C16H31NO
